US08685970B2
A suspension of 6-chloro-3-nitropicolinamide (12 g, 70 mmol) in triethyl orthoformate (490 ml) was refluxed for 3 hours. A yellow suspension was formed which was cooled to room temperate. The precipitate was collected by filtration, and dried under vacuum to obtain 6-chloropyrido[3,2-d]pyrimidin-4-ol (10.44 g, 82% yield).

reactant | 6-chloro-3-nitropicolinamide | 70 mmol, 12 g | ClC1=CC=C(C(=N1)C(=O)N)[N+](=O)[O-] | C6H4ClN3O3
reactant | triethyl orthoformate | 490 ml | C(OCC)(OCC)OCC | C7H16O3
product | 6-chloropyrido[3,2-d]pyrimidin-4-ol | 10.44 g, 82% yield | ClC=1C=CC=2N=CN=C(C2N1)O | C7H4ClN3O
